US08895313B2
2-(4-Nitrophenyl)imidazo[1,2-a]pyrimidine hydrobromide
A mixture of 2-aminopyrimidine (0.40 g, 4.22 mmol) and 2-bromo-4′-nitroacetophenone (1.03 g, 4.22 mmol) in DMF (8 ml) was stirred at rt for 16 h. EtOAc (15 ml) was added to the resulting yellow, viscous mixture and the precipitate collected by filtration and washed with EtOAc (50 ml). After drying under high vacuum, a yellow solid was obtained (0.67 g, 51%).

reactant | 2-aminopyrimidine | 4.22 mmol, 0.40 g | NC1=NC=CC=N1 | C4H5N3
reactant | 2-bromo-4′-nitroacetophenone | 4.22 mmol, 1.03 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-(4-Nitrophenyl)imidazo[1,2-a]pyrimidine hydrobromide | Br.[N+](=O)([O-])C1=CC=C(C=C1)C=1N=C2N(C=CC=N2)C1 | InChI=1S/C12H8N4O2.BrH/c17-16(18)10-4-2-9(3-5-10)11-8-15-7-1-6-13-12(15)14-11;/h1-8H;1H
